US05242914
5-Methyl-2-oxo-1,3-dioxolen-4-ylmethyl (1R, 5S, 6S)-2-(2-oxo-3-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
A solution of 66 mg of 5-methyl-2-oxo-1,3-dioxolen-4-ylmethyl iodide (prepared by heating 5-methyl-2-oxo-1,3-dioxolen-4-ylmethyl bromide and sodium iodide under reflux in acetone) in chloroform was added to a mixture of 47.6 mg of sodium (1R, 5S, 6S)-2-(2-oxo-3-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate and 0.4 ml of dry dimethylformamide. The mixture was stirred at room temperature for 80 minutes and then at 30°-45° C. for 4.5 hours. At the end of this time, the reaction mixture was diluted with ethyl acetate and washed four times with an aqueous solution of sodium chloride. The extract was dried and the solvent was distilled off under reduced pressure. The residue was purified by Lobar column chromatography (Merck, LiChroprep Si60, size A), eluted with a 10:1 by volume mixture of ethyl acetate and methanol, to give 27.4 mg of the title compound in the form of a colorless powder.

reactant | 5-methyl-2-oxo-1,3-dioxolen-4-ylmethyl iodide | 66 mg | CC1=C(OC(O1)=O)CI | C5H5IO3
reactant | sodium (1R, 5S, 6S)-2-(2-oxo-3-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 47.6 mg | O=C1NCCC1SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C.[Na+]
reactant | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methyl-2-oxo-1,3-dioxolen-4-ylmethyl (1R, 5S, 6S)-2-(2-oxo-3-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 27.4 mg | O=C1NCCC1SC=1[C@@H]([C@H]2N(C1C(=O)OCC=1OC(OC1C)=O)C([C@@H]2[C@@H](C)O)=O)C | C19H22N2O8S
